US05411980
Step A: 5,5,5,-Trifluorovaleronitrile
A mixture of 882 mg (18 mmole) of sodium cyanide and 9 mL of DMSO was heated in an oil bath at 80° C. for 10 minutes until most of the solid had dissolved. The mixture was then removed from the oil bath and treated with 2.87 g (15 mmole) of 4,4,4-trifluorobutyl bromide. The mixture was heated to 110° C. for about 30 minutes and then cooled to room temperature. The mixture was partitioned between H2O and ether, and the aqueous layer was extracted with an additonal 2 portions of ether. The combined organic fractions were washed successively with 2N HCl (twice), H2O (twice), and brine. The ether phase was dried over anhydrous Na2SO4, filtered, and concentrated to yield 1.99 g (97%) of the title compound as a colorless liquid, suitable for use without further purification; IR (neat) νCO 2260 cm-1.

reactant | sodium cyanide | 18 mmole, 882 mg | [C-]#N.[Na+]
reactant | 4,4,4-trifluorobutyl bromide | 15 mmole, 2.87 g | FC(CCCBr)(F)F | C4H6BrF3
solvent | DMSO | 9 mL | CS(=O)C | C2H6OS
product | 5,5,5,-Trifluorovaleronitrile | 1.99 g, 97% | FC(CCCC#N)(F)F | C5H6F3N
